US04849444
(c) 5-(4-Chloro-3-(3,5-diisopropyl-4-hydroxyphenylsulfamoyl)-phenyl)-5-hydroxy-1-methyl-2-pyrrolidone
A suspension of 29.1 g of 4-amino-2,6-diisopropylphenol in 450 ml of ethyl acetate is added in portions to a solution of 17.5 g of 5-(4-chloro-3-chlorosulfonylphenyl)-5-hydroxy-1-methyl-2-pyrrolidone and 22.7 g of triethylamine in 200 ml of ethyl acetate. The mixture is stirred at 50° C. for 3 hours, cooled, water is added, the organic phase is separated off, and the aqueous phase is extracted several times with ethyl acetate. The combined organic phases are washed with water and dried over sodium sulfate, and the solvent is distilled off. After addition of about 250 ml of methylene chloride to the amorphous red residue it is refluxed and crystallization is induced by scratching. The mixture is stirred at room temperature for 30 min, and the precipitate is filtered off and recrystallized from acetonitrile without prolonged standing. Colorless crystals of melting point 198°-200° C.

reactant | 4-amino-2,6-diisopropylphenol | 29.1 g | NC1=CC(=C(C(=C1)C(C)C)O)C(C)C | C12H19NO
reactant | 5-(4-chloro-3-chlorosulfonylphenyl)-5-hydroxy-1-methyl-2-pyrrolidone | 17.5 g | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(=O)(=O)Cl | C11H11Cl2NO4S
reactant | triethylamine | 22.7 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-(4-Chloro-3-(3,5-diisopropyl-4-hydroxyphenylsulfamoyl)-phenyl)-5-hydroxy-1-methyl-2-pyrrolidone | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(NC1=CC(=C(C(=C1)C(C)C)O)C(C)C)(=O)=O | C23H29ClN2O5S
